US05098921
A solution of 1-(2-nitro-1-imidazolyl)-3-(1-aziridino)-2-propanol(2.12 g, 10.0 mmol) in acetone (20 cm3) red as described in Example 1(a) was stirred at 0-5° C. using external ice-water cooling. Concentrated aqueous hydrochloric acid (38% w/w HCl, 2.0 cm3) was added in one portion. The mixture was treated with decolourising charcoal (0.3 g), filtered and chilled to give 1-(2-nitro-1-imidazolyl)-3-(2-chloroethylamino)-2-propanol hydrochloride (1.89 g, 66.3%) as a pale yellow microcrystalline solid, m.p. 152.5°-153.5° C. (dec.) after drying in vacuo.

reactant | RSU-1069 | 10.0 mmol, 2.12 g | C1CN1CC(CN2C=CN=C2[N+](=O)[O-])O | C8H12N4O3
reactant | hydrochloric acid | 2.0 cm3 | Cl | ClH
reactant | charcoal | 0.3 g | C | CH4
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
product | 1-(2-nitro-1-imidazolyl)-3-(2-chloroethylamino)-2-propanol hydrochloride | 1.89 g, 66.3% | Cl.[N+](=O)([O-])C=1N(C=CN1)CC(CNCCCl)O | InChI=1S/C8H13ClN4O3.ClH/c9-1-2-10-5-7(14)6-12-4-3-11-8(12)13(15)16;/h3-4,7,10,14H,1-2,5-6H2;1H
